US08809389B2
b) Synthesis of 1-hydroxy-6-propyl-3,4-dimethoxybenzene
Following the procedure as in Example 3B, the same product can be obtained starting from 1-hydroxy-3,4-dimethoxybenzene and allyl bromide, Claisen rearrangement and hydrogenation

reactant | 1-hydroxy-3,4-dimethoxybenzene | OC1=CC(=C(C=C1)OC)OC | C8H10O3
reactant | allyl bromide | C(C=C)Br | C3H5Br
product | 1-hydroxy-6-propyl-3,4-dimethoxybenzene | OC1=CC(=C(C=C1CCC)OC)OC | C11H16O3
